US07091228B2
To a cold (0° C.) stirred solution of bromobenzene (9.09 g, 57.89 mmol) and AlCl3 (18.36 g, 137.84 mmol) in dry DCM (150 mL) was added 3-oxabicyclo[3.1.0]hexane-2,4-dione (5.40 g, 48.24 mmol). The reaction mixture was stirred at rt for 3 days. The dark-red solution was then poured into ice-cold water (120 mL), and conc. HCl (10 mL) was added. The solution was stirred for few minutes, and the layers were separated. The aqueous layer was extracted with DCM and the combined organic phases were washed with water, brine, dried over Na2SO4 and concentrated to give cis-2-(4-bromobenzoyl)cyclopropanecarboxylic acid (9.69 g, 65%). LC-MS ret. time 2.50; m/z 270 (MH+); 1H NMR (400 MHz, CD2Cl2) δ 1.54 (m, 1H), 1.85 (m, 1H), 2.37 (m, 1H), 2.88 (m, 1H), 7.65 (m, 2H), 7.90 (m, 2H).

reactant | bromobenzene | 57.89 mmol, 9.09 g | BrC1=CC=CC=C1 | C6H5Br
reactant | AlCl3 | 137.84 mmol, 18.36 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 3-oxabicyclo[3.1.0]hexane-2,4-dione | 48.24 mmol, 5.40 g | C12C(OC(C2C1)=O)=O | C5H4O3
reactant | HCl | 10 mL | Cl | ClH
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | cis-2-(4-bromobenzoyl)cyclopropanecarboxylic acid | 9.69 g, 65% | BrC1=CC=C(C(=O)[C@@H]2[C@@H](C2)C(=O)O)C=C1 | C11H9BrO3
